US04238493
A solution of 2-(5-methyl-4-imidazolylmethylthio)ethylamine (1.3 g, 0.0076 mol) and 2-methylthio-3-nitro-4,5-dihydropyrrole (1.2 g, 0.0075 mol) in ethanol (50 ml) was refluxed for 11/2hours. The mixture was cooled, and the solid was filtered off and recrystallised from methanol/water to give 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-3-nitro-4,5-dihydropyrrole (1.4 g, 66%) m.p. 207.5°-208°.

reactant | 2-(5-methyl-4-imidazolylmethylthio)ethylamine | 0.0076 mol, 1.3 g | CC1=C(N=CN1)CSCCN | C7H13N3S
reactant | 2-methylthio-3-nitro-4,5-dihydropyrrole | 0.0075 mol, 1.2 g | CSC=1NCCC1[N+](=O)[O-] | C5H8N2O2S
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-3-nitro-4,5-dihydropyrrole | 1.4 g, 66% | CC1=C(N=CN1)CSCCNC=1NCCC1[N+](=O)[O-] | C11H17N5O2S
